US09314464B2
Intermediate. 4-(3-Iodo-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-4-yl)-2-(methylthio)pyrimidine
A solution of 4-(3-iodo-1H-pyrazol-4-yl)-2-(methylthio)pyrimidine (270 mg, 0.85 mmol) and p-toluenesulfonic acid monohydrate (32 mg, 0.17 mmol) in 3,4-dihydro-2H-pyran (1 ml) was heated at 60° C. for 5 h. The cooled mixture was diluted with ethyl acetate, and the mixture was washed with water and brine, and then dried over sodium sulfate, filtered, and concentrated. The residue was chromatographed on silica gel (10% ethyl acetate in hexanes eluant) to provide the title compound. MS (m/z): 402.7 (M+1).

reactant | 4-(3-iodo-1H-pyrazol-4-yl)-2-(methylthio)pyrimidine | 0.85 mmol, 270 mg | IC1=NNC=C1C1=NC(=NC=C1)SC | C8H7IN4S
reactant | p-toluenesulfonic acid monohydrate | 0.17 mmol, 32 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | 3,4-dihydro-2H-pyran | 1 ml | O1CCCC=C1 | C5H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(3-Iodo-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-4-yl)-2-(methylthio)pyrimidine | IC1=NN(C=C1C1=NC(=NC=C1)SC)C1OCCCC1 | C13H15IN4OS
